Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / metformin
 
Attending: ___.
 
Chief Complaint:
Malaise, weight gain, orthopnea
 
Major Surgical or Invasive Procedure:
Tunneled HD line placement (___)

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:
___ yo F with hx of HFpEF, HTN, CKD Stage V, T2DM presenting with
worsening malaise, lack of appetite, orthopnea, and weight gain.
Of note, she was recently admitted a few weeks ago for CHF
exacerbation, found to have ___ on CKD with a Cr of 6.4 with a
previous baseline of 4.8. She was sent in by nephrologist ___ with worsening malaise, lack of appetite, orthopnea, 
and
weight gain. Per Dr. ___ needs HD initiation. Vascular
mapping was done on ___ as part of pre-HD planning, she does
not have HD access yet. Quantiferon-TB gold test negative
___. Last discharge weight 97kg. 

Per patient, she has been having SOB over the past year that is
worse with exertion and non-positional. It is not associated 
with
chest pain, diaphoresis, productive cough, fever, or chills. Her
SOB has not changed significantly recently. She states that she
just never really got better and in fact just gradually got 
worse
since her last admission - no acute decompensations during this
time period. Worsening lower extremity edema, worsening 
shortness
of breath. Has been taking her torsemide regularly without
improvement in symptoms. UOP remains good per her report, 
neither
oliguria nor polyuria.

Initial vital signs were notable for: T 97.7, BP 162/79, HR 69,
RR 16, 100% RA

Exam notable for:
Comfortable, tired
Bilateral crackles, no increased work of breathing.

Labs were notable for:
146  110  64        AGap=16 
-------------< 101 
5.9  20  6.4  

    7.9
5.9>----<220 
    26.6

Ca: 9.0
PO4: 4.7
proBNP: 2182 
Trop: 0.07
CK: 162
MB: 3

Studies performed include:
CXR: Persistent enlargement of the cardiac silhouette. Mild
pulmonary vascular congestion/edema. 

Patient was given:
Furosemide 80 mg IV
Labetalol 300 mg PO

Consults:
Renal - ___ ___ cardiorenal vs. diuretic refractoriness; send
hepatitis B serologies, give 80 mg IV Lasix, consult ___ in AM 
for
non-urgent tunneled line placement, plan for HD initiation 
unless
see significant improvement in symptoms and improvement in Cr
with diuresis

Vitals on transfer: T 98.1, BP 158/82, HR 71, RR 16, 99% 2L NC

Upon arrival to the floor, patient is feeling okay, just cold.
She is not SOB, but she does feel a little wheezy. She says that
sometimes she gets SOB while lying down and she commonly gets 
SOB
with exertion. She endorses good urine output. She denies 
fevers,
chills, nausea, vomiting, chest pain, palpitations, abdominal
pain, hematuria.

REVIEW OF SYSTEMS:

Complete ROS obtained and is otherwise negative.
 
Past Medical History:
HFpEF
CKD Stage V (on ___ HD)
Stroke
DM2, insulin dependent, complicated by nephropathy, retinopathy, 
neuropathy
HTN
Empty sella syndrome
Surgical debridement of non-healing ulcers at ___ (___)
 
Social History:
___
Family History:
HTN, father had ___ disease, sister had stroke
 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: T97.8 PO  BP 177 / 102HR 76RR 22O2 99 on 3L
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. IV/VI
systolic murmur in aortic area.
LUNGS: Faint expiratory wheezes b/l. Mild bibasilar rales.
BACK: No spinous process tenderness. No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: +2 pitting edema b/l.
SKIN: Warm. Cap refill <2s. No rash.

DISCHARGE PHYSICAL EXAM:
24 HR Data (last updated ___ @ 622)
    Temp: 99.0 (Tm 99.0), BP: 169/62 (122-169/62-68), HR: 76
(67-76), RR: 18 (___), O2 sat: 95% (93-98), O2 delivery: RA,
Wt: 207.45 lb/94.1 kg       

GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. pupils equally round
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. IV/VI
systolic murmur in aortic area.
LUNGS: CTA bilaterally, no increased work of breathing.
BACK: No spinous process tenderness. No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
Extr: no clubbing, cyanosis, or edema.
 
Pertinent Results:
ADMISSION LABS
___ 11:20AM BLOOD WBC-5.9 RBC-2.95* Hgb-7.9* Hct-26.6* 
MCV-90 MCH-26.8 MCHC-29.7* RDW-14.4 RDWSD-47.6* Plt ___
___ 11:20AM BLOOD Neuts-70.8 Lymphs-15.9* Monos-7.2 Eos-5.3 
Baso-0.5 Im ___ AbsNeut-4.15 AbsLymp-0.93* AbsMono-0.42 
AbsEos-0.31 AbsBaso-0.03
___ 11:20AM BLOOD Plt ___
___ 11:20AM BLOOD Glucose-101* UreaN-64* Creat-6.4* Na-146 
K-5.9* Cl-110* HCO3-20* AnGap-16
___ 11:20AM BLOOD CK(CPK)-162
___ 11:20AM BLOOD CK-MB-3 proBNP-2182*
___ 11:20AM BLOOD Calcium-9.0 Phos-4.7*
___ 11:20AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-POS*
___ 11:42AM BLOOD Lactate-0.9 K-5.1

DISCHARGE LABS
___ 06:45AM BLOOD WBC-6.4 RBC-2.97* Hgb-8.2* Hct-26.9* 
MCV-91 MCH-27.6 MCHC-30.5* RDW-14.1 RDWSD-46.5* Plt ___
___ 06:45AM BLOOD Plt ___
___ 06:45AM BLOOD Glucose-107* UreaN-35* Creat-4.9*# Na-141 
K-4.3 Cl-102 HCO3-24 AnGap-15
___ 06:45AM BLOOD Calcium-8.8 Phos-4.5 Mg-1.9

PERTINENT STUDIES
Radiology ___ TUNNELED W/O PORTStudy Date of 
___ 2:17 ___
IMPRESSION: 
Successful placement of a  23cm tip-to-cuff length tunneled 
dialysis line. 
The tip of the catheter terminates in the right atrium. The 
catheter is ready
for use.

Radiology ReportCHEST (PORTABLE AP)Study Date of ___ 
8:19 AM
IMPRESSION: 
In comparison with the study of ___, there is continued 
substantial
enlargement of the cardiac silhouette with increasing pulmonary 
edema.  A
No evidence of acute focal pneumonia.  However, in the 
appropriate clinical
setting, given the extensive findings above, it would be very 
difficult to
exclude superimposed aspiration/pneumonia.

Radiology ReportCHEST (PA & LAT)Study Date of ___ 12:01 
___
IMPRESSION: 
Persistent enlargement of the cardiac silhouette.  Mild 
pulmonary vascular
congestion/edema.

MICROBIOLOGY
None.
 
Brief Hospital Course:
___ yo F with hx of HFpEF, HTN, CKD Stage V, T2DM presenting with 
dyspnea and need for HD initiation per outpatient nephrologist 
for having failed outpatient volume management with diuretics.

ACUTE ISSUES:
=============
#CKD Stage V
#Dyspnea
#Need for HD initiation
Presented with dyspnea though no O2 requirement. Also had 
markedly edematous eyelids and bilateral lower extremity edema. 
Cr on admission was 6.4, which is not improved from her last 
admission. Cr was 2.2 back in ___. Per renal, likely failed 
outpatient volume management and will initiate HD. Patient is in 
agreement. Likely ___ cardiorenal vs. diuretic refractoriness. 
Had an episode of acute worsening of dyspnea likely due to flash 
pulmonary edema given symptoms and CXR findings. Symptoms 
quickly resolved with IV furosemide 160mg x2 daily and 
supplemental O2. O2 was weaned to ___. Right sided tunneled 
dialysis line placed on ___. Patient tolerated initiation of 
dialysis well, though had some fatigue. After dialysis was 
started (with continued IV furosemide 160mg x1 on non-dialysis 
days), her respiratory status and edema resolved, and she 
remained on RA with stable improvement for the few days leading 
up to discharge. She was set up to receive outpatient dialysis 
at ___ Dialysis ___ on a ___ schedule. Renal 
recommended continuing home torsemide 40mg daily on non-dialysis 
days.

#HTN
Hard to control on previous admissions, likely ___ CKD. ProBNP 
2182 on admission, last admission it was 2289. Persistently 
hypertensive to 150s-180s systolic despite being on home 
carvedilol, amlodipine, isosorbide mononitrate, and hydralazine 
100mg Q8H. Dialysis was initiated with improvement of 
respiratory symptoms but she remained hypertensive both during 
and after each of 3 sessions. Home doxazosin was still being 
held given evidence of possibly increased mortality, and she was 
started on lisinopril 10 with renal agreeing. Following the 
addition of lisinopril and continued dialysis/diuresis, 
systolics decreased and stabilized in the 120s-150s.

#___
Patient recently admitted and discharged on ___ for acute 
exacerbation of CHF. Last discharge weight of 97 kg. Current 
admission weight of 99.29 kg. Had episode of flash pulmonary 
edema as detailed above. Following HD initiation (received 3 
sessions in hospital), continued diuresis with IV furosemide on 
non-dialysis days, and blood pressure control, patient's dyspnea 
and edema resolved. Discharge weight 94.1kg.

# Peripheral neuropathy
Patient has chronic tingling in her hands and feet at night, 
likely diabetic neuropathy. Started on gabapentin at HD dosing 
(100 qhs) with good response.

# Stress urinary incontinence
Reports this is chronic ___ years, no prior interventions, plan 
for outpatient UroGyn evaluation, might also benefit from 
Women's Health / Pelvic floor physical therapy evaluation & 
treatment as outpatient.

CHRONIC ISSUES:
===============
#Type 2 Diabetes Mellitus
Stable. Continued home lantus 10 u at bedtime in addition to 
hospital insulin sliding scale.

#Normocytic anemia
Stable. Recent baseline ~8.5. Likely ___ CKD. Continued home 
ferrous sulfate every other day.

#H/o CVA, infarcts in left frontal lobe and right basal ganglia
Stable. No residual weakness. Presumed ischemic given multiple 
risk factors. Continued home aspirin 81 mg and home atorvastatin 
80 mg

CORE MEASURES
=============
#CODE: Full (confirmed)
#CONTACT: ___, Relationship: granddaughter, Phone 
number: ___

TRANSITIONAL ISSUES:
====================
-Discharge weight 94.1kg.
-Will be receiving outpatient dialysis at ___ Dialysis 
___ on a ___ schedule. Next dialysis = ___.
-Patient received BCG vaccine and had positive PPD in past. 
Should not get any more PPDs. TB screening (e.g. for dialysis) 
should be done with quantiferon gold.
-Started lisinopril 10mg daily, and discontinued doxazosin for 
blood pressure in the setting of initiation of HD. Please follow 
up BP and uptitrate accordingly.
-Started gabapentin 100mg qhs (HD dosing) for neuropathic pain 
likely from diabetic neuropathy with excellent clinical 
response.
[] Consider UroGyn referral for ongoing stress incontinence 
(patient reports ___ years of symptoms). Might also benefit from 
Women's Health / Pelvic floor physical therapy evaluation & 
treatment as outpatient.
.
.
.
.
Time in care: >30 minutes in discharge-related activities on the 
day of discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO QAM 
2. Carvedilol 25 mg PO BID 
3. Ferrous Sulfate 325 mg PO EVERY OTHER DAY 
4. HydrALAZINE 100 mg PO TID 
5. amLODIPine 10 mg PO DAILY 
6. Aspirin 81 mg PO DAILY 
7. Calcitriol 0.25 mcg PO 3X/WEEK (___) 
8. Doxazosin 4 mg PO DAILY 
9. Glargine 10 Units Bedtime
10. Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY 
11. Loratadine 10 mg PO DAILY 
12. Torsemide 40 mg PO DAILY 

 
Discharge Medications:
1.  Gabapentin 100 mg PO QHS 
RX *gabapentin 100 mg 1 capsule(s) by mouth at bedtime Disp #*30 
Capsule Refills:*0 
2.  Lisinopril 10 mg PO DAILY 
RX *lisinopril 10 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Nephrocaps 1 CAP PO DAILY 
RX *B complex with C#20-folic acid [Renal Caps] 1 mg 1 
capsule(s) by mouth once a day Disp #*30 Capsule Refills:*0 
4.  Glargine 10 Units Bedtime 
5.  amLODIPine 10 mg PO DAILY  
6.  Aspirin 81 mg PO DAILY  
7.  Atorvastatin 80 mg PO QAM  
8.  Calcitriol 0.25 mcg PO 3X/WEEK (___)  
9.  Carvedilol 25 mg PO BID  
10.  Ferrous Sulfate 325 mg PO EVERY OTHER DAY  
11.  HydrALAZINE 100 mg PO TID  
12.  Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY  
13.  Loratadine 10 mg PO DAILY  
14.  Torsemide 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Volume overload
HTN
ESRD requiring HD initiation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was a pleasure taking care of you at ___.

Why you were in the hospital:
-You felt short of breath and your nephrologists felt you needed 
to start dialysis.

What was done for you in the hospital:
-You were started on dialysis and your breathing improved.
-We switched one of your medications for your high blood 
pressure (stop doxazosin, start lisinopril).
-We continued your home torsemide on non-dialysis days to 
prevent you from getting volume overloaded again. Please 
continue taking this on non-dialysis days at home.

What you should do after you leave the hospital:

- Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

- Please take your medications as detailed in the discharge 
papers. If you have questions about which medications to take, 
please contact your regular doctor to discuss.

- Please go to your follow up appointments as scheduled in the 
discharge papers. Most of them already have a specific date & 
time set. If there is no specific time specified, and you do not 
hear from their office in ___ business days, please contact the 
office to schedule an appointment.

- Please monitor for worsening symptoms. If you do not feel like 
you are getting better or have any other concerns, please call 
your doctor to discuss or return to the emergency room.

 

We wish you the best!

 

Sincerely,

Your ___ Care Team

 
Followup Instructions:
___